US08067457B2
rel-N-[(3R,4R)-4-(allyloxy)-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]-2-{[5-(trifluoromethyl)-1H-indazol-3-yl]amino}acetamide (102)
The title compound was synthesized in similar fashion to rel-N-(2-{([(3R,4R)-4-ethoxy-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide {[5-(trifluoromethyl)-1H-indazol-3-yl]amino}acetic acid was substituted for {[3-(trifluoromethyl)benzoyl]amino}acetic acid, and allyl bromide was substituted for bromoethane, and was isolated as a white solid. 1H-NMR (DMSO-d6) δ: 1.18-1.35 (m, 2H), 1.60-1.70 (m, 2H), 2.06-2.16 (m, 1H), 2.23-2.31 (m, 1H), 2.38-2.44 (m, 1H), 2.74-2.84 (m, 2H), 3.18-3.28 (m, 2H), 3.72-3.87 (m, 6H), 3.92-4.08 (m, 2H), 5.02-5.19 (m, 2H), 5.73-5.87 (m, 1H), 6.70 (t, 1H), 7.39 (d, 1H), 7.48 (dd, 1H), 8.03 (d, 1H), 8.26 (s, 1H), 11.9 (s, 1H). MS m/z: 468 (M+1).

reactant | 2-{([(3R,4R)-4-ethoxy-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide {[5-(trifluoromethyl)-1H-indazol-3-yl]amino}acetic acid | FC(C=1C=C2C(=NNC2=CC1)NCC(=O)O)(F)F.C(C)O[C@H]1[C@@H](CN(C1)C1CCOCC1)NC(CC1=C(C(=O)N)C=CC=C1C(F)(F)F)=O
reactant | {[3-(trifluoromethyl)benzoyl]amino}acetic acid | FC(C=1C=C(C(=O)NCC(=O)O)C=CC1)(F)F | C10H8F3NO3
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | bromoethane | BrCC | C2H5Br
product | rel-N-[(3R,4R)-4-(allyloxy)-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]-2-{[5-(trifluoromethyl)-1H-indazol-3-yl]amino}acetamide | C(C=C)O[C@H]1[C@@H](CN(C1)C1CCOCC1)NC(CNC1=NNC2=CC=C(C=C12)C(F)(F)F)=O | C22H28F3N5O3
